US08461189B2
A solution of 4-({[(pyridin-3-ylmethoxy)carbonyl]amino}methyl)benzoic acid (1.0 g, 3.49 mmol), ammonium chloride (0.47 g, 8.73 mmol) and BOP (2.32 g, 5.24 mmol) in DMF (10 mL) was treated with DIEA (1.13 g. 8.73 mmol) and the resulting solution was stirred at ambient temperature for 16 hours. The reaction mixture was diluted with water (150 mL) and the resulting solids were filtered, washed with additional water and dried in vacuo to give pyridin-3-ylmethyl{[4-(aminocarbonyl)phenyl]methyl}carbamate as a white solid. MS: cal'd 286 (MH+), exp 286 (MH+).

reactant | 4-({[(pyridin-3-ylmethoxy)carbonyl]amino}methyl)benzoic acid | 3.49 mmol, 1.0 g | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
reactant | ammonium chloride | 8.73 mmol, 0.47 g | [Cl-].[NH4+]
reactant | BOP | 5.24 mmol, 2.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 8.73 mmol, 1.13 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | pyridin-3-ylmethyl{[4-(aminocarbonyl)phenyl]methyl}carbamate | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)N)=O | C15H15N3O3
